US07317012B2
Preparation of 6-(2-chlorophenyl)-7-(4-chlorophenyl)-2-(4,4,4-trifluorobutyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
A suspension of 6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (20 mg, 0.056 mmol), 1,1,1-trifluoro-4-iodobutane (20 mg, 0.084 mmol) and solid K2CO3 (12 mg, 0.084 mmol) in anhydrous DMF (0.6 mL) was stirred at 80° C. for 1 h. Analysis by HPLC/MS indicated the reaction was not complete. Additional 1,1,1-trifluoro-4-iodobutane (12 mg, 0.084 mmol) was added, the reaction was allowed to continue at 80° C. for 30 min. After cooling to room temperature, the reaction mixture was diluted with water, and extracted with EtOAc (20 mL×2). The combined EtOAc extracts were washed with water, saturated aqueous NaCl, dried (Na2SO4) and concentrated under reduced pressure. The crude product was purified using a silica gel cartridge (12 g) eluting with a gradient of EtOAc (0-60%) in hexanes to yield a yellow oily product, which was lyophilized in acetonitrile to afford 19 mg (73%) of the title compound as a yellow powder. HPLC (method B): retention time=7.70 min. 1H NMR (CDCl3, 400 MHz): δ 7.45 (m, 2H), 7.35 (m, 2H), 7.25 (m, 1H), 7.20 (d,J=8.8 Hz, 2H), 7.04 (d,j=8.8 Hz, 2H), 4.17 (t,J=6.1 Hz, 2H), 2.17-2.25 (m, 4H).

reactant | 6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.056 mmol, 20 mg | ClC1=C(C=CC=C1)C=1C(=CC=2N(N1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | 1,1,1-trifluoro-4-iodobutane | 0.084 mmol, 20 mg | FC(CCCI)(F)F | C4H6F3I
reactant | K2CO3 | 0.084 mmol, 12 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,1,1-trifluoro-4-iodobutane | 0.084 mmol, 12 mg | FC(CCCI)(F)F | C4H6F3I
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-(2-chlorophenyl)-7-(4-chlorophenyl)-2-(4,4,4-trifluorobutyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 19 mg, 73% | ClC1=C(C=CC=C1)C=1C(=CC=2N(N1)C(N(N2)CCCC(F)(F)F)=O)C2=CC=C(C=C2)Cl | C21H15Cl2F3N4O
